data/mechanism_extracts/OrgLett/10.1021_acs.orglett.8b03682.json
{"doi": "10.1021_acs.orglett.8b03682", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical fluorocyclization of N-allylcarboxamides to 5-fluoromethyl-2-oxazolines mediated by anodically generated hypervalent aryl-iodine(III) species using Et3N·5HF as fluoride source", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic 2-electron oxidation of 4-methyliodobenzene (ArI) to a hypervalent ArI(III)/iodonium-type mediator that activates the alkene; HF provides fluoride and the cathode reduces protons", "key_intermediates": [{"name": "anodically oxidized 4-methyliodobenzene (ArI cation/ArIF2-type hypervalent iodine(III) mediator)", "smiles": null, "role": "reactive"}, {"name": "alkene-coordinated iodonium (three-membered iodiranium) intermediate 4a from attack of allyl C=C on ArI(III)", "smiles": null, "role": "transient"}, {"name": "5-(λ3-iodanyl)methyl oxazoline 4b formed by intramolecular ring-opening by the amide carbonyl oxygen", "smiles": null, "role": "reactive"}, {"name": "4-methyliodobenzene (ArI) released after SN2 displacement by fluoride", "smiles": "Cc1ccc(I)cc1", "role": "resting_state"}, {"name": "5-fluoromethyl-2-aryl-2-oxazoline product 2a", "smiles": null, "role": "reactive"}], "electron_flow": "ArI is oxidized at the anode (2e-) to a hypervalent I(III) species that electrophilically activates the allyl alkene of the N-allylcarboxamide, forming an iodiranium; intramolecular attack by the amide carbonyl oxygen gives an iodanyl-methyl oxazoline, which undergoes SN2 displacement by fluoride (from Et3N·5HF) to release the fluoromethyl oxazoline and regenerate ArI.", "rate_determining_step": null, "probe_reagents": [{"name": "4-tert-butyliodobenzene mediator", "smiles": "CC(C)(C)c1ccc(I)cc1", "purpose": "intermediate_trap", "observation": "mediator recovered quantitatively after electrolysis, supporting catalytic ArI/ArI(III) cycle"}, {"name": "ex-cell electrolysis protocol", "smiles": null, "purpose": "other", "observation": "pre-generated ArI(III) reagent (ex-cell) converted 1h to 2h cleanly, avoiding side reactions seen in-cell — supports a discrete ArI(III) mediator pathway"}], "evidence_types_used": ["stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "In-cell electrolysis of 2-phenyl substrate 1h gave intramolecular coupling side product; ex-cell (pre-generated ArI(III)) gave cleaner oxazoline 2h, indicating that direct anodic oxidation of substrate is a competing pathway suppressed when the hypervalent iodine mediator is used as a discrete reagent."}
